US04431651
To a stirred mixture mixture containing 59.6 g of 1-(4-pyridinyl)propanone and 100 ml of crotononitrile was added a solution of sodium methoxide in methanol obtained by adding 1 pellet of sodium shot to 20 ml of methanol. The reaction mixture was heated on a steam bath with stirring. After about 5 minutes, there was an exothermic reaction which raised the reaction temperature to 100° C. The resulting mixture was allowed to cool to room temperature and stand overnight (about 16 hours). To the reaction was added 100 ml of 10% acetic acid and 300 ml of methylene dichloride; and, the mixture was shaken well. The layers were separated and the methylene dichloride layer was dried over anhydrous magnesium sulfate and filtered. The methylene dichloride was distilled off in vacuo and the residual oil was distilled under vacuum using a small column to produce 85.0 g of 4-acetyl-3-methyl-4-(4-pyridinyl)butanenitrile, b.p. 130°-135° C. at 0.05 mm.

reactant | 1-(4-pyridinyl)propanone | 59.6 g | N1=CC=C(C=C1)CC(C)=O | C8H9NO
reactant | crotononitrile | 100 ml | C(\C=C\C)#N | C4H5N
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | [Na] | Na
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methylene dichloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-acetyl-3-methyl-4-(4-pyridinyl)butanenitrile | 85.0 g | C(C)(=O)C(C(CC#N)C)C1=CC=NC=C1 | C12H14N2O
